US04727082
A solution of 12.4 g of diethyl 2-ethyl-4-[2-(4-phthalimidobutoxy)-5-nitrophenyl]-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate and 10.4 g of hydrazine monohydrate in 270 ml of 95% ethanol (water: 5%) was refluxed under heating for 10 hours. After cooling the reaction solution, the solution was concentrated under reduced pressure, and the residue was extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Crude crystals thus obtained were recrystallized from chloroform-ether to give 6.4 g of diethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 2-ethyl-4-[2-(4-phthalimidobutoxy)-5-nitrophenyl]-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 12.4 g | C(C)C=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC(=C1)[N+](=O)[O-])OCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC)C | C32H35N3O9
reactant | hydrazine monohydrate | 10.4 g | O.NN
solvent | ethanol | 270 ml | C(C)O | C2H6O
product | diethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 6.4 g | NCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OCC)C)CC)C(=O)OCC | C24H33N3O7
